data/mechanism_extracts/JACS/10.1021_jacs.2c05126_sup_1.json
{"doi": "10.1021_jacs.2c05126_sup_1", "journal": "JACS", "is_review": false, "rxn_class_summary": "Electrochemical Cu-catalyzed 1,2-diazidation of alkenes with TMSN3, probed here by radical-clock (vinylcyclopropane ring-opening, 1,6-diene cyclization) and carbocation-trapping experiments.", "mechanism_family": ["radical_polar_crossover", "electrocatalysis_inner_sphere", "carbocation"], "electrochemical_role": "Anodic oxidation regenerates Cu(II)/Cu(III)-N3, which delivers an azidyl radical to the alkene; the resulting carbon radical is further oxidized to a carbocation (or trapped by a second Cu-N3) to install the second azide.", "key_intermediates": [{"name": "β-azido carbon radical from N3 addition to alkene", "smiles": null, "role": "reactive"}, {"name": "ring-opened homoallyl/allyl carbon radical from vinylcyclopropane (radical clock)", "smiles": null, "role": "transient"}, {"name": "cyclized pyrrolidinyl carbon radical from 1,6-diene (radical clock)", "smiles": null, "role": "transient"}, {"name": "β-azido tertiary carbocation (from methallyl benzamide substrate)", "smiles": null, "role": "reactive"}, {"name": "Cu(II)/Cu(III)-azide species", "smiles": null, "role": "resting_state"}], "electron_flow": "Cu-azide delivers an N3 radical to the alkene to give a β-azido C-radical; for substrates that can stabilize a cation, this radical is further oxidized (anodically or by Cu(III)) to a carbocation that is trapped by azide, while less-stabilized radicals couple directly with a second Cu-N3.", "rate_determining_step": null, "probe_reagents": [{"name": "(1-phenyl-2-vinylcyclopropane) 41", "smiles": "C(=C)C1CC1c1ccccc1", "purpose": "radical_clock", "observation": "Ring-opened 1,5-diazidopent-3-en-1-ylbenzene (42) isolated in 15% (E/Z 5:1), confirming a free carbon radical intermediate."}, {"name": "N-allyl-N-(2-methylallyl)tosylamide 44", "smiles": "C=CCN(S(=O)(=O)c1ccc(C)cc1)CC(=C)C", "purpose": "radical_clock", "observation": "5-exo-trig cyclization gives 3,4-bis(azidomethyl)-3-methyl-1-tosylpyrrolidine (45) in 21%, dr 2:1, supporting a radical cyclization prior to second azidation."}, {"name": "N-(2-methylallyl)benzamide 47", "smiles": "O=C(NCC(=C)C)c1ccccc1", "purpose": "intermediate_trap", "observation": "Affords N-(2,3-diazido-2-methylpropyl)benzamide (48) in 59% without amide-cyclization product, consistent with a tertiary β-azido carbocation rapidly trapped by azide rather than by the pendant amide."}], "evidence_types_used": ["radical_clock", "intermediate_trap_other", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Pages shown are SI mechanistic probes (sections b 'Radical clock experiments' and c 'Investigation of carbocation intermediates'). Both a radical and a carbocation pathway are operative: most substrates proceed through radical-polar crossover, while non-stabilized radicals likely undergo direct Cu-mediated azidation without going through a cation."}
